US07799797B2
C-(6-Benzenesulfonyl-naphthalen-1-yl)-methyl amine and triethyl amine (0.2 ml, 1.55 mmole) in dichloroethane are stirred and cooled in an ice-bath. Ethylgloxylate is added, followed by sodium triacetoxyborohydride. The reaction is stirred and then quenched by addition of 2% sodium carbonate solution. The mixture is extracted with ethyl acetate, and the organic layer is dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give [(6-benzenesulfonyl-naphthalen-1-ylmethyl)-amino]-acetic acid ethyl ester

reactant | C-(6-Benzenesulfonyl-naphthalen-1-yl)-methyl amine | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CN | C17H15NO2S
reactant | triethyl amine | 1.55 mmole, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | [(6-benzenesulfonyl-naphthalen-1-ylmethyl)-amino]-acetic acid ethyl ester | C(C)OC(CNCC1=CC=CC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O | C21H21NO4S
